US05192803
5.7 g of freshly distilled phenylsulfenyl chloride in 10 ml of toluene are added dropwise at 0° to +5° C. in the course of 30 minutes to a solution of 12 g of ethyl 2-[4-(3,5-difluorophenoxy)phenoxy]ethylcarbamate in 40 ml of pyridine, with stirring. After this, the mixture is stirred for 4 more hours at room temperature. The reaction mixture is poured into 300 ml of 2N hydrochloric acid and ice, and the mixture is extracted twice using diethyl ether. The combined organic phases are washed to neutrality with water and sodium chloride solution and dried over sodium sulfate. The solvent is distilled off in vacuo, and the residue is purified by chromatography on silica gel (eluent: hexane/diethyl ether, 20:1), which gives pure ethyl N-phenylthio-2-[4-(3,5-difluorophenoxy)phenoxy]ethylcarbamate, nD20 : 1.5700.

reactant | phenylsulfenyl chloride | C1(=CC=CC=C1)SCl | C6H5ClS
reactant | ethyl 2-[4-(3,5-difluorophenoxy)phenoxy]ethylcarbamate | 12 g | FC=1C=C(OC2=CC=C(OCCNC(OCC)=O)C=C2)C=C(C1)F | C17H17F2NO4
reactant | hydrochloric acid | 2N, 300 ml | Cl | ClH
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | ethyl N-phenylthio-2-[4-(3,5-difluorophenoxy)phenoxy]ethylcarbamate | C1(=CC=CC=C1)SN(C(OCC)=O)CCOC1=CC=C(C=C1)OC1=CC(=CC(=C1)F)F | C23H21F2NO4S
